US08097634B2
Step C): 4-(2-Methoxy-ethyl)-2-oxo-piperidine-4-carboxylic acid ethyl ester
4-(2-Methoxy-ethyl)-2-oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (8.7 g) dissolved in dichloromethane (300 ml) under an argon atmosphere was treated with trifluoroacetic acid (60.32 g, 39.11 ml) and stirred for 3 hours at RT. The reaction mixture was then concentrated in vacuo, the residue dissolved in AcOEt, which was then washed with 3M aqueous NaOH, brine and dried over magnesium sulphate. The solvent was removed in vacuo and the residue was chromatographed on silica gel (acetone/CH2Cl2, gradient 0 to 10%) to give the desired product as light brown viscous oil (1.49 g). MS (ESI): 230.13 (MH+).

reactant | 4-(2-Methoxy-ethyl)-2-oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 8.7 g | C(C)OC(=O)C1(CC(N(CC1)C(=O)OC(C)(C)C)=O)CCOC | C16H27NO6
reactant | trifluoroacetic acid | 39.11 ml, 60.32 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-(2-Methoxy-ethyl)-2-oxo-piperidine-4-carboxylic acid ethyl ester | 1.49 g | C(C)OC(=O)C1(CC(NCC1)=O)CCOC | C11H19NO4
